US04263311
To a stirred suspension of 6.14 g. of sodium hydride [50% dispersion in oil, (0.128 mole)] in 150 ml. of tetrahydrofuran (distilled from lithium aluminum hydride) at 0° C. under nitrogen was added 10.0 g. (0.0256 mole) of 5,6-bis(p-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole hydrobromide. After 30 minutes, 17.82 g. (0.0768 mole) of 2,2,2-trifluoroethyl trifluoromethanesulfonate was added dropwise, maintaining the temperature below 0° C. After stirring overnight at room temperature, the suspension was added portionwise to 500 ml. of ice water under nitrogen and extracted three times with methylene chloride. The organic layer was washed with water, dried over potassium carbonate and concentrated in vacuo. The residue was recrystallized from methylene chloride-hexane to give 5,6-bis[p-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydroimidazo[2,1-b]thiazole, m.p. 163°-164° C.

reactant | sodium hydride | 0.128 mole | [H-].[Na+]
reactant | 5,6-bis(p-hydroxyphenyl)-2,3-dihydroimidazo[2,1-b]thiazole hydrobromide | 0.0256 mole | Br.OC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)O
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.0768 mole | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5,6-bis[p-(2,2,2-trifluoroethoxy)phenyl]-2,3-dihydroimidazo[2,1-b]thiazole | FC(COC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)OCC(F)(F)F)(F)F | C21H16F6N2O2S
